US08084448B2
B. 5-(2-Hydroxy-4-vinylphenyl)-1,1-dioxo-1,2,5-thiadiazolidin-3-one
To a solution of 5-(2-benzyloxy-4-vinylphenyl)-1,1-dioxo-1,2,5-thiadiazolidin-3-one (73 mg, 0.21 mmol) in CH2Cl2 (4 mL) at 0° C. is added dropwise 1M BBr3 (0.32 mL, 0.32 mmol) in CH2Cl2 and the reaction is stirred at 0° C. for 30 min. The mixture is quenched with water (1 mL) followed by washing with Et2O. The aqueous layer is concentrated under reduced pressure and the crude residue is purified by chromatography on a C18 column using a gradient of 0-15% EtOH/water as eluent to give the title compound: (M−H)−=253; 1H NMR (MeOD) δ 7.32 (d, J=8.0 Hz, 1H), 6.87 (d, J=2.0 Hz, 1H), 6.79 (dd, J=8, 2 Hz, 1H), 4.69 (q, J=6.48 Hz, 1H), 4.26 (s, 2H), 2.63 (s, 1H), 1.34 (d, J=6.57 Hz, 3H).

reactant | 5-(2-benzyloxy-4-vinylphenyl)-1,1-dioxo-1,2,5-thiadiazolidin-3-one | 0.21 mmol, 73 mg | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)C=C)N1CC(NS1(=O)=O)=O | C17H16N2O4S
reactant | BBr3 | 0.32 mmol, 1M, 0.32 mL | B(Br)(Br)Br | BBr3
solvent | CH2Cl2 | 4 mL | C(Cl)Cl | CH2Cl2
product | 5-(2-Hydroxy-4-vinylphenyl)-1,1-dioxo-1,2,5-thiadiazolidin-3-one | OC1=C(C=CC(=C1)C=C)N1CC(NS1(=O)=O)=O | C10H10N2O4S
